US05681841
3-(4-Bromophenyl)-1-[4-(2-carboxyethyl)phenyl]imidazolidin-2-one
12.7 g of 3-(4-bromophenyl)-1-[4-[2-(ethoxycarbonyl)-ethyl]-phenyl]-imidazolidin-2-one, 300 ml of tetrahydrofuran, 100 ml of water and 23.6 ml of 4N sodium hydroxide solution are stirred overnight at ambient temperature. The precipitate is suction filtered, suspended in 1 liter of water, acidified with concentrated hydrochloric acid and stirred for 2 hours. It is then suction filtered, washed with water and dried at 60° C.

reactant | 3-(4-bromophenyl)-1-[4-[2-(ethoxycarbonyl)-ethyl]-phenyl]-imidazolidin-2-one | 12.7 g | BrC1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OCC)=O | C20H21BrN2O3
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 4N, 23.6 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 3-(4-Bromophenyl)-1-[4-(2-carboxyethyl)phenyl]imidazolidin-2-one | BrC1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)O)=O | C18H17BrN2O3
